US07030141B2
Step 2: 2-(5-Bromo-pyridin-2-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
Pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (1.97 g, 9.2 mmol) was dissolved in 150 mL dry diethyl ether under Ar, cooled in an ice water bath, added dry pyridine (3.7 mL, 45.8 mmol) followed by the dropwise addition of oxalyl chloride (2 mL, 22.9 mmol). A precipitate forms immediately. The reaction was stirred vigorously at 0° C. for 2 hours, then at ambient temperature for one hour. Added 100 mL diethyl ether, filtered off solids washing with diethyl ether. Concentrated the filtrates to an off-white oil. Redissolved oil in 100 mL dry DCM under Ar, cooled to 0° C., added 3 mL pyridine followed by 2-amino-5-bromopyridine (1.32 g, 7.6 mmol). The reaction was allowed to warm to ambient temperature, stirred for 3 hours then concentrated. Redissolved in 250 mL EtOAc, washed with 10% HCl (3×100 mL), brine (100 mL), dried with MgSO4, filtered and concentrated to yield title compound as a yellow sticky solid. (2.74 g, 97%) APCI (AP−): 368.0, 370.0 (M−H)−.

reactant | Pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 9.2 mmol, 1.97 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(=O)O | C10H17NO4
reactant | pyridine | 45.8 mmol, 3.7 mL | N1=CC=CC=C1 | C5H5N
reactant | oxalyl chloride | 22.9 mmol, 2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-amino-5-bromopyridine | 7.6 mmol, 1.32 g | NC1=NC=C(C=C1)Br | C5H5BrN2
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 2-(5-Bromo-pyridin-2-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC1=NC=C(C=C1)Br)=O | C15H20BrN3O3
